US08134001B2
In a manner similar to the method described in example 1d, 5-iodo-2-(4-methoxy-phenoxy)-benzaldehyde (1.12 g, 3.16 mmol) was reacted with 1,1,1,3,3,3-hexamethyldisilazane (0.66 mL, 3.16 mmol), n-butyllithium (2.5 M, 1.26 mL, 3.16 mmol), trimethylsilyl chloride (0.4 mL, 3.16 mmol), triethylamine (0.57 mL, 4.1 mmol) and acetyl chloride (0.39 mL, 4.1 mmol) to give crude 1-[5-iodo-2-(4-methoxy-phenoxy)-phenyl]-3-trimethylsilyoxy-2-aza-1,3-butadiene as a yellow gum and used for the next step without further purification.

reactant | 5-iodo-2-(4-methoxy-phenoxy)-benzaldehyde | 3.16 mmol, 1.12 g | IC=1C=CC(=C(C=O)C1)OC1=CC=C(C=C1)OC | C14H11IO3
reactant | 1,1,1,3,3,3-hexamethyldisilazane | 3.16 mmol, 0.66 mL | C[Si](N[Si](C)(C)C)(C)C | C6H19NSi2
reactant | n-butyllithium | 3.16 mmol, 2.5 M, 1.26 mL | C(CCC)[Li]
reactant | trimethylsilyl chloride | 3.16 mmol, 0.4 mL | C[Si](C)(C)Cl | C3H9ClSi
reactant | triethylamine | 4.1 mmol, 0.57 mL | C(C)N(CC)CC | C6H15N
reactant | acetyl chloride | 4.1 mmol, 0.39 mL | C(C)(=O)Cl | C2H3ClO
product | 1-[5-iodo-2-(4-methoxy-phenoxy)-phenyl]-3-trimethylsilyoxy-2-aza-1,3-butadiene | IC=1C=CC(=C(C1)C=NC(=C)O[Si](C)(C)C)OC1=CC=C(C=C1)OC | C19H22INO3Si
